US08426447B2
A 150-mL pressure vessel was charged with 2′-bromo-7′-hydroxyspiro[1,3-oxazole-4,9′-xanthen]-2-amine (845 mg, 2434 μmol) in THF (24 mL), pyrimidin-5-ylboronic acid (754 mg, 6085 μmol), tetrakis(triphenylphosphine)palladium(0) (281 mg, 243 μmol), and potassium carbonate (10.1 mL of a 1.2 M aqueous solution, 12.1 mmol). The vessel was sealed and placed in a 100° C. oil bath at for 4 h. The reaction mixture was cooled to RT and partitioned between EtOAc (50 mL) and water (50 mL). The aqueous layer was extracted with EtOAc (50 mL), and the combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The crude material was purified by chromatography on silica gel (eluting with 30-100% of a 90:10:1 DCM/MeOH/NH4OH solution in DCM) to give 2′-hydroxy-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2-amine as an off-white solid. MS m/z=347.2 [M+H]+. Calc'd for C19H15N4O3: 347.1.

reactant | 2′-bromo-7′-hydroxyspiro[1,3-oxazole-4,9′-xanthen]-2-amine | 2434 μmol, 845 mg | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)O)N=C(OC3)N | C15H11BrN2O3
reactant | pyrimidin-5-ylboronic acid | 6085 μmol, 754 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 24 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 243 μmol, 281 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-hydroxy-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2-amine | OC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N | C19H14N4O3
